PhotoDiode

*Model files
.include photo_diode.txt
.include ua741.txt

*Power supplies
vdc 1 0 dc 0v
vdcp 3 0 dc 12v
vdcn 4 0 dc -12v

*Circuit connections (set IL_val here)
Xop 1 2 3 4 2 UA741
Xs 5 0 photo_diode IL_val=1e-3
vdc_Xs 2 5 dc 0v

.control

* Plot settings
set color0 = white
set color1 = black
set color2 = red

************ T = 25 *************

* Setting the temperature
set temp=25
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_25.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m

************ T = 35 *************

* Setting the temperature
set temp=35
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_35.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m

************ T = 45 *************

* Setting the temperature
set temp=45
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_45.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m

************ T = 55 *************

* Setting the temperature
set temp=55
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_55.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m

************ T = 65 *************

* Setting the temperature
set temp=65
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_65.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m

************ T = 75 *************

* Setting the temperature
set temp=75
dc vdc -2 2 0.01

* I-V Plot
print i(vdc_Xs) v(5) > IV_light_75.txt

meas dc Ir find i(vdc_Xs) when v(5) = -1.5
meas dc Vf find v(5) when i(vdc_Xs) = 1m


.endc
.end
